US07893257B2
(4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone
A 250 mL, two-neck flask fitted with an addition funnel and thermocouple probe was charged with 1-cyclopropyl-piperazine dihydrochloride (7.1 g, 0.036 mol, 1.0 eq) and toluene (70 mL) and then cooled to 0° C. Aqueous NaOH solution (1.0 M, 70 mL, 2.0 eq) was added at such a rate that the reaction temperature did not exceed 10° C. Na2CO3 powder (7.5 g, 0.071 mol, 2.0 eq) was then added to the reaction mixture. The 4-morpholin-4-ylmethyl-benzoyl chloride, prepared as in Step A above (9.8 g, 0.036 mol, 1.0 eq) was added in portions over 3 minutes, while the temperature of the reaction mixture was maintained below 5° C. The reaction mixture was then stirred for 2 hrs. The reaction mixture was filtered, the layers were separated, the aqueous layer was extracted with toluene (30 mL×2), and the combined organic layers washed with brine (30 mL) and dried over Na2SO4. The solvent was removed in vacuo to yield the title compound as a as pale yellow viscous oil.

reactant | 1-cyclopropyl-piperazine dihydrochloride | 0.036 mol, 7.1 g, 1.0 eq | Cl.Cl.C1(CC1)N1CCNCC1
reactant | NaOH | 1.0 M, 70 mL, 2.0 eq | [OH-].[Na+]
reactant | Na2CO3 | 0.071 mol, 7.5 g, 2.0 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-morpholin-4-ylmethyl-benzoyl chloride | N1(CCOCC1)CC1=CC=C(C(=O)Cl)C=C1 | C12H14ClNO2
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | (4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone | C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | C19H27N3O2
